US08202865B2
Step 1: tert-butyl N-(5-cyano-2-fluorobenzyl)-N-methyl-beta-alaninate
A mixture of 5-cyano-2-fluorobenzylbromide (CARBOCORE; CO-0137; 1.50 g; 7.01 mmol; 1 eq.), tert-butyl N-methyl-beta-alaninate (1.34 g; 8.41 mmol; 1.20 eq.) (prepared as described by Howard N., I. et al. in Bioorg. Med. Chem. 11 (2003), 3083-3099) and potassium carbonate (1.94 g; 14.02 mmol; 2 eq.) in CH3CN (25 mL) was stirred at 60° C. for 6 hours then at RT for 16 hours. The acetonitrile was evaporated in vacuo and the resulting mixture diluted with water. Extraction with EtOAc, washing with NaCl sat. solution, drying over sodium sulfate and concentration in vacuo gave title compound as a slightly yellow oil (1.9 g; 92%). 1H NMR (CDCl3) δ 7.79 (dd, J=6.7, 2.1 Hz, 1H), 7.57-7.52 (m, 1H), 7.11 (t, J=8.9 Hz, 1H), 3.57 (s, 2H), 2.74 (t, J=7.1 Hz, 2H), 2.43 (t, J=7.1 Hz, 2H), 2.22 (s, 3H), 1.45 (s, 9H). LC/MS (Method B): 293.2 (M+H)+. HPLC (Method A) Rt 2.44 min (Purity: 86.4%).

reactant | 5-cyano-2-fluorobenzylbromide | 7.01 mmol, 1.50 g, 1 eq. | C(#N)C=1C=CC(=C(CBr)C1)F | C8H5BrFN
reactant | tert-butyl N-methyl-beta-alaninate | 8.41 mmol, 1.34 g, 1.20 eq. | CNCCC(=O)OC(C)(C)C | C8H17NO2
reactant | potassium carbonate | 14.02 mmol, 1.94 g, 2 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | CH3CN | 25 mL | CC#N | C2H3N
product | tert-butyl N-(5-cyano-2-fluorobenzyl)-N-methyl-beta-alaninate | C(#N)C=1C=CC(=C(CN(CCC(=O)OC(C)(C)C)C)C1)F | C16H21FN2O2
